*                Helmut Sennewald  V1.0   01/24/2004
* RELAYS
*-------------------------------------------------------------------
.SUBCKT RLY_SPDT0  coilp coilm in1 out1 out2 
+ VNOM=10 RCOIL=500 RON=0.2 ROFF=1T 
+ TON=1m VON=0.7 VOFF=0.3 
+ LCOIL=0.1 CCOIL=1f 
+ COFF=1f CCOUP=1f Lser=1p 
*
* Example version with parameter from instance
*
* SPDT Relay
* in1->out1  open if relay is not energized
* in1->out2  on   if relay is not energized
*
.PARAM INOM=VNOM/RCOIL
.PARAM VT=(VON+VOFF)/2
.PARAM VH=(VON-VOFF)/2
.PARAM C1=-0.45*0.001*TON/log(1-VON)
.PARAM C2=1*C1
*
LCoil coilp 1 {LCOIL}
RCoil 1 2 {RCOIL}
VCoil 2 coilm 0
CCoil coilp coilm {CCOIL}
*
*BCoil 3 0 V=I(VCoil)/INOM
ECoil 3 0 VALUE={(I(VCoil)/INOM)}
* Delay, break before make
* Delay until SW2 open
RD1 3 5 1k
CD1 5 0 {C1}
EBUF 6 0  5 0 1
B1 10 0 V=MIN(V(6),V(7))
* Delay until SW1 close
RD2 6 7 1k
CD2 7 0  {C2}
B2 20 0 V=MAX(V(6),V(7))
*
SW1 in1 out1 10 0 Switch1 
SW2 in1 out2 20 0 Switch2
COff1 in1 out1 {COFF}
COff2 in1 out2 {COFF}
CCoup out1 out2 {CCOUP}
*
.model Switch1 SW(Ron={RON} Roff={ROFF} Vt={VT} Vh={VH} Lser={LSER})
.model Switch2 SW(Ron={ROFF} Roff={RON} Vt={VT} Vh={VH} Lser={LSER})
.ENDS

*-------------------------------------------------------------------
.SUBCKT RLY_REED1  coilp coilm in1 out1 out2 
+ VNOM=5 RCOIL=500 RON=0.2 ROFF=1T 
+ TON=1m VON=0.7 VOFF=0.3 
+ LCOIL=0.1 CCOIL=1f 
+ COFF=1f CCOUP=1f Lser=1p 
*
* SPDT Relay
* in1->out1  open if relay is not energized
* in1->out2  on   if relay is not energized
*
.PARAM INOM=VNOM/RCOIL
.PARAM VT=(VON+VOFF)/2
.PARAM VH=(VON-VOFF)/2
.PARAM C1=-0.45*0.001*TON/log(1-VON)
.PARAM C2=C1
*
LCoil coilp 1 {LCOIL}
RCoil 1 2 {RCOIL}
VCoil 2 coilm 0
CCoil coilp coilm {CCOIL}
*
*BCoil 3 0 V=I(VCoil)/INOM
ECoil 3 0 VALUE={(I(VCoil)/INOM)}
* Delay, break before make
* Delay until SW2 open
RD1 3 5 1k
CD1 5 0 {C1}
EBUF 6 0  5 0 1
B1 10 0 V=MIN(V(6),V(7))
* Delay until SW1 close
RD2 6 7 1k
CD2 7 0  {C2}
B2 20 0 V=MAX(V(6),V(7))
*
SW1 in1 out1 10 0 Switch1 
SW2 in1 out2 20 0 Switch2
COff1 in1 out1 {COFF}
COff2 in1 out2 {COFF}
CCoup out1 out2 {CCOUP}
*
.model Switch1 SW(Ron={RON} Roff={ROFF} Vt={VT} Vh={VH} Lser={LSER})
.model Switch2 SW(Ron={ROFF} Roff={RON} Vt={VT} Vh={VH} Lser={LSER})
.ENDS

*-------------------------------------------------------------------
.SUBCKT RLY_SIG1  coilp coilm in1 out1 out2 
+ VNOM=5 RCOIL=150 RON=0.1 ROFF=1G
+ TON=5m VON=0.7 VOFF=0.3 
+ LCOIL=0.1 CCOIL=1f 
+ COFF=1f CCOUP=1f Lser=1p 
*
* SPDT Relay
* in1->out1  open if relay is not energized
* in1->out2  on   if relay is not energized
*
.PARAM INOM=VNOM/RCOIL
.PARAM VT=(VON+VOFF)/2
.PARAM VH=(VON-VOFF)/2
.PARAM C1=-0.45*0.001*TON/log(1-VON)
.PARAM C2=C1
*
LCoil coilp 1 {LCOIL}
RCoil 1 2 {RCOIL}
VCoil 2 coilm 0
CCoil coilp coilm {CCOIL}
*
*BCoil 3 0 V=I(VCoil)/INOM
ECoil 3 0 VALUE={(I(VCoil)/INOM)}
* Delay, break before make
* Delay until SW2 open
RD1 3 5 1k
CD1 5 0 {C1}
EBUF 6 0  5 0 1
B1 10 0 V=MIN(V(6),V(7))
* Delay until SW1 close
RD2 6 7 1k
CD2 7 0  {C2}
B2 20 0 V=MAX(V(6),V(7))
*
SW1 in1 out1 10 0 Switch1 
SW2 in1 out2 20 0 Switch2
COff1 in1 out1 {COFF}
COff2 in1 out2 {COFF}
CCoup out1 out2 {CCOUP}
*
.model Switch1 SW(Ron={RON} Roff={ROFF} Vt={VT} Vh={VH} Lser={LSER})
.model Switch2 SW(Ron={ROFF} Roff={RON} Vt={VT} Vh={VH} Lser={LSER})
.ENDS

*-------------------------------------------------------------------
.SUBCKT RLY_POW1  coilp coilm in1 out1 out2 
+ VNOM=12 RCOIL=500 RON=0.02 ROFF=1G 
+ TON=20m VON=0.7 VOFF=0.3 
+ LCOIL=1 CCOIL=1f 
+ COFF=1f CCOUP=1f Lser=1p 
*
* SPDT Relay
* in1->out1  open if relay is not energized
* in1->out2  on   if relay is not energized
*
.PARAM INOM=VNOM/RCOIL
.PARAM VT=(VON+VOFF)/2
.PARAM VH=(VON-VOFF)/2
.PARAM C1=-0.45*0.001*TON/log(1-VON)
.PARAM C2=C1
*
LCoil coilp 1 {LCOIL}
RCoil 1 2 {RCOIL}
VCoil 2 coilm 0
CCoil coilp coilm {CCOIL}
*
*BCoil 3 0 V=I(VCoil)/INOM
ECoil 3 0 VALUE={(I(VCoil)/INOM)}
* Delay, break before make
* Delay until SW2 open
RD1 3 5 1k
CD1 5 0 {C1}
EBUF 6 0  5 0 1
B1 10 0 V=MIN(V(6),V(7))
* Delay until SW1 close
RD2 6 7 1k
CD2 7 0  {C2}
B2 20 0 V=MAX(V(6),V(7))
*
SW1 in1 out1 10 0 Switch1 
SW2 in1 out2 20 0 Switch2
COff1 in1 out1 {COFF}
COff2 in1 out2 {COFF}
CCoup out1 out2 {CCOUP}
*
.model Switch1 SW(Ron={RON} Roff={ROFF} Vt={VT} Vh={VH} Lser={LSER})
.model Switch2 SW(Ron={ROFF} Roff={RON} Vt={VT} Vh={VH} Lser={LSER})
.ENDS

*-------------------------------------------------------------------
.SUBCKT RLY_2POW1  coilp coilm in1 out11 out12 in2 out21 out22
+ VNOM=12 RCOIL=500 RON=0.02 ROFF=1G 
+ TON=20m VON=0.7 VOFF=0.3 
+ LCOIL=1 CCOIL=1f 
+ COFF=1f CCOUP=1f Lser=1p 
*
* SPDT Relay
* in1->out1  open if relay is not energized
* in1->out2  on   if relay is not energized
*
.PARAM INOM=VNOM/RCOIL
.PARAM VT=(VON+VOFF)/2
.PARAM VH=(VON-VOFF)/2
.PARAM C1=-0.45*0.001*TON/log(1-VON)
.PARAM C2=C1
*
LCoil coilp 1 {LCOIL}
RCoil 1 2 {RCOIL}
VCoil 2 coilm 0
CCoil coilp coilm {CCOIL}
*
*BCoil 3 0 V=I(VCoil)/INOM
ECoil 3 0 VALUE={(I(VCoil)/INOM)}
* Delay, break before make
* Delay until SW2 open
RD1 3 5 1k
CD1 5 0 {C1}
EBUF 6 0  5 0 1
B1 10 0 V=MIN(V(6),V(7))
* Delay until SW1 close
RD2 6 7 1k
CD2 7 0  {C2}
B2 20 0 V=MAX(V(6),V(7))
*
SW1 in1 out11 10 0 Switch1 
SW2 in1 out12 20 0 Switch2
COff11 in1 out11 {COFF}
COff12 in1 out12 {COFF}
CCoup1 out11 out12 {CCOUP}
*
SW3 in2 out21 10 0 Switch1 
SW4 in2 out22 20 0 Switch2
COff21 in2 out21 {COFF}
COff22 in2 out22 {COFF}
CCoup2 out21 out22 {CCOUP}
*
.model Switch1 SW(Ron={RON} Roff={ROFF} Vt={VT} Vh={VH} Lser={LSER})
.model Switch2 SW(Ron={ROFF} Roff={RON} Vt={VT} Vh={VH} Lser={LSER})
*
.ENDS



*-------------------------------------------------------------------
.SUBCKT RLY_SIG1NO  coilp coilm in1 out1 
+ VNOM=5 RCOIL=150 RON=0.1 ROFF=1G
+ TON=5m VON=0.7 VOFF=0.3 
+ LCOIL=0.1 CCOIL=1f 
+ COFF=1f Lser=1p 
*
* SPDT Relay
* in1->out1  open if relay is not energized
* in1->out2  on   if relay is not energized
*
.PARAM INOM=VNOM/RCOIL
.PARAM VT=(VON+VOFF)/2
.PARAM VH=(VON-VOFF)/2
.PARAM C1=-0.8*0.001*TON/log(1-VON)
*
LCoil coilp 1 {LCOIL}
RCoil 1 2 {RCOIL}
VCoil 2 coilm 0
CCoil coilp coilm {CCOIL}
*
*BCoil 3 0 V=I(VCoil)/INOM
ECoil 3 0 VALUE={(I(VCoil)/INOM)}
* Delay until SW1 close
RD1 3 5 1k
CD1 5 0 {C1}
*
SW1 in1 out1 5 0 Switch1 
COff1 in1 out1 {COFF}
*
.model Switch1 SW(Ron={RON} Roff={ROFF} Vt={VT} Vh={VH} Lser={LSER})
.ENDS

*-------------------------------------------------------------------
.SUBCKT RLY_SIG1NC  coilp coilm in1 out1 
+ VNOM=5 RCOIL=150 RON=0.1 ROFF=1G
+ TON=5m VON=0.7 VOFF=0.3 
+ LCOIL=0.1 CCOIL=1f 
+ COFF=1f Lser=1p 
*
* SPDT Relay
* in1->out1  open if relay is not energized
* in1->out2  on   if relay is not energized
*
.PARAM INOM=VNOM/RCOIL
.PARAM VT=(VON+VOFF)/2
.PARAM VH=(VON-VOFF)/2
.PARAM C1=-0.8*0.001*TON/log(1-VON)
*
LCoil coilp 1 {LCOIL}
RCoil 1 2 {RCOIL}
VCoil 2 coilm 0
CCoil coilp coilm {CCOIL}
*
*BCoil 3 0 V=I(VCoil)/INOM
ECoil 3 0 VALUE={(I(VCoil)/INOM)}
* Delay until SW1 close
RD1 3 5 1k
CD1 5 0 {C1}
*
SW1 in1 out1 5 0 Switch1 
COff1 in1 out1 {COFF}
*
.model Switch1 SW(Ron={ROFF} Roff={RON} Vt={VT} Vh={VH} Lser={LSER})
.ENDS

